US07696200B2
A suspension of 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoxaline-6-carbonyl]-amino}-benzoic acid ethyl ester (30 mg, 0.06 mmol) in tetrahydrofuran (2 mL) and methanol (2 mL) was treated with NaOH 2N (2 mL) and warmed until a clear solution was obtained. The mixture was stirred at room temperature 2 hours, the organic solvents were then partially removed. The aqueous slurry was acidified with HCl 1N (4 mL) and the resulting precipitate filtered, washing with water. 4-{[4-(5-Chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoxaline-6-carbonyl]-amino}-benzoic acid was obtained as a white solid, 26 mg (91%), MS (ISP): m/e=499.9, 501.9 (M−H); δH (300 MHz; d6-DMSO) 12.67 (1H, s), 10.15 (1H, s), 7.91 (4H, s), 7.89 (1H, s), 7.81 (1H, s), 7.73 (1H, d), 7.63 (1H, d), 7.23 (1H, d), 6.88 (1H, bs), 6.66 (1H, d), 3.64 (2H, bs), 3.53 (3H, s), 2.99 (2H, bs).

reactant | 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoxaline-6-carbonyl]-amino}-benzoic acid ethyl ester | 0.06 mmol, 30 mg | C(C)OC(C1=CC=C(C=C1)NC(=O)C=1C=C2N(CCNC2=CC1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O | C25H24ClN3O6S
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 4-{[4-(5-Chloro-2-methoxy-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoxaline-6-carbonyl]-amino}-benzoic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCNC2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1)OC | C23H20ClN3O6S
